US08614327B2
To a solution of N-(4-methoxy-2-naphthyl)-4-oxo-1H-quinoline-3-carboxamide (73 mg, 0.21 mmol) in DCM (4 mL) was added BBr3 (1.1 mL, 11.64 mmol) dropwise at −78° C. After the addition was complete the cooling bath was removed and the resulting reaction mixture was warmed to room temperature and then was heated to 50° C. for 2 h, cooled to −10° C. and quenched with saturated solution of NaHCO3. The aqueous layer was extracted with DCM and the combined organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via reverse phase HPLC to get N-(4-hydroxy-2-naphthyl)-4-oxo-1H-quinoline-3-carboxamide. LC/MS: m/z 331 (M+H)+ at 1.47 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | N-(4-methoxy-2-naphthyl)-4-oxo-1H-quinoline-3-carboxamide | 0.21 mmol, 73 mg | COC1=CC(=CC2=CC=CC=C12)NC(=O)C1=CNC2=CC=CC=C2C1=O | C21H16N2O3
reactant | BBr3 | 11.64 mmol, 1.1 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(4-hydroxy-2-naphthyl)-4-oxo-1H-quinoline-3-carboxamide | OC1=CC(=CC2=CC=CC=C12)NC(=O)C1=CNC2=CC=CC=C2C1=O | C20H14N2O3
